US09029409B2
To a stirred solution of the 5-bromo-1H-pyrazolo[3,4-b]pyridine (0.5 g, 2.52 mmol, reference US 2009035381) and TEA (0.352 mL, 2.52 mmol, Rankem) in THF (20 mL) was added di-tert. butyl dicarbonate (0.616 mL, 2.65 mmol Spectrochem) and a catalytic amount of DMAP (0.077 g, 0.631 mmol, Spectrochem). The reaction mixture was stirred at RT for about 4 h. The reaction mixture was diluted with EtOAc (100 mL) and washed successively with saturated sodium bicarbonate solution (25 mL) and brine (1×20 mL). The organic layer was dried over sodium sulphate and concentrated under reduced pressure. The crude material obtained was purified using silica gel column chromatography eluted in 20% EtOAc-hexane. Relevant fractions containing the required compound were combined and evaporated to dryness under reduced pressure afforded tert-butyl 5-bromo-1H-pyrazolo[3,4-b]pyridine-1-carboxylate as a pale yellow solid. 0.510 g, (67.7%), 1H NMR: (400 MHz, DMSO) δ: 8.798-8.792 (d, J=2.4 Hz, 1H) 8.648-8.643 (d, J=2.1 Hz, 1H) 8.417 (s, 1H) 1.69 (s, 9H), MS m/z: 198.2 (M+H)+.

reactant | 5-bromo-1H-pyrazolo[3,4-b]pyridine | 2.52 mmol, 0.5 g | BrC=1C=C2C(=NC1)NN=C2 | C6H4BrN3
reactant | di-tert. butyl dicarbonate | 2.65 mmol, 0.616 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.631 mmol, 0.077 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 5-bromo-1H-pyrazolo[3,4-b]pyridine-1-carboxylate | BrC=1C=C2C(=NC1)N(N=C2)C(=O)OC(C)(C)C | C11H12BrN3O2
